US05846972
To 2-methylthio-4-chloro-5-nitro-6-(3-(dimethylaminocarbonyl)phenoxy)pyrimidine, a compound of formula (C), (3.0 g 8.14 mmol) in 80 mL of acetonitrile at 0° C. was added glycine ethyl ester hydrochloride, a compound of formula (D), (1.14 g, 8.14 mmol), followed by the addition of cesium carbonate (6.1 g, 18.7 mmol). The reaction mixture was allowed to warm to ambient temperature and then stirred for 2 hours. The volatiles were evaporated to yield 3.6 g of 2-methylthio-4-(ethoxycarbonylmethyl)amino-5-nitro-6-(3-(dimethylaminocarbonyl)-phenoxy)pyrimidine, a compound of formula (E).

reactant | 2-methylthio-4-chloro-5-nitro-6-(3-(dimethylaminocarbonyl)phenoxy)pyrimidine | CSC1=NC(=C(C(=N1)Cl)[N+](=O)[O-])OC1=CC(=CC=C1)C(=O)N(C)C | C14H13ClN4O4S
reactant | glycine ethyl ester hydrochloride | Cl.C(C)OC(CN)=O
reactant | cesium carbonate | 18.7 mmol, 6.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | 2-methylthio-4-(ethoxycarbonylmethyl)amino-5-nitro-6-(3-(dimethylaminocarbonyl)-phenoxy)pyrimidine | 3.6 g | CSC1=NC(=C(C(=N1)NCC(=O)OCC)[N+](=O)[O-])OC1=CC(=CC=C1)C(=O)N(C)C | C18H21N5O6S
